US06340682B1
Addition of 102 mg (1.8 mmol) of potassium hydroxide to a solution of 479 mg (5.9 mmol) of dimethylamine hydrochloride in methanol (4 ml) gave a clear solution. To this solution were added 979 mg (2.3 mmol) of 1,4-bis(p-toluenesulfonyl)-6-oxohexahydro-1,4-diazepine synthesized by the above process in methanol (30 ml) and 116 mg (1.8 mmol) of sodium cyanoborohydride. After the resultant mixture was stirred for 15 hours at room temperature, 104 mg (1.7 mmol) of additional sodium cyanoborohydride was added, and the mixture was stirred for an additional 25 hours. A 1N aqueous solution (5 ml) of sodium hydroxide was added to the reaction mixture, and the mixture was concentrated under reduced pressure, followed by extraction with chloroform. An organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil was purified by column chromatography on silica gel to obtain 519 mg (yield: 50%) of 1,4-bis(p-toluenesulfonyl)-6-(N,N-dimethylamino)-hexahydro-1,4-diazepine as a colorless oil.

reactant | potassium hydroxide | 1.8 mmol, 102 mg | [OH-].[K+]
reactant | dimethylamine hydrochloride | 5.9 mmol, 479 mg | Cl.CNC
reactant | 1,4-bis(p-toluenesulfonyl)-6-oxohexahydro-1,4-diazepine | 2.3 mmol, 979 mg | C1(=CC=C(C=C1)S(=O)(=O)N1CCN(CC(C1)=O)S(=O)(=O)C1=CC=C(C=C1)C)C | C19H22N2O5S2
reactant | sodium cyanoborohydride | 1.8 mmol, 116 mg | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 1.7 mmol, 104 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | 1,4-bis(p-toluenesulfonyl)-6-(N,N-dimethylamino)-hexahydro-1,4-diazepine | 519 mg, yield: 50% | C1(=CC=C(C=C1)S(=O)(=O)N1CCN(CC(C1)N(C)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C21H29N3O4S2
